US04755598
A mixture of 1.78 g of 1-chloroethyl 2,4-dimethyl-3-pentyl carbonate and 5 g of sodium iodide is stirred in 30 ml of acetonitrile at 70° C. for 4 hours and concentrated. The residue is extracted with ether and concentrated to give crude 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate. In 30 ml of dimethylformamide is dissolved 3.6 g of potassium 7β-[2-(2-aminothiazol-4-yl)acetamido]-3-[[[1-(2-dimethylaminoethyl)-1H-tetrazol-5-yl]thio]methyl]ceph-3-em-4-carboxylate, and with ice-cooling and stirring, the above 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate is added thereto at one stroke, followed by stirring for 5 minutes. The reaction mixture is poured into a mixture of 150 ml of ethyl acetate and 150 ml of ice-cooled 20% aqueous sodium chloride. The organic layer is separated, washed with two 150-ml portions of saturated aqueous sodium chloride and extracted with 40 ml of 1N hydrochloric acid. The extract is subjected to column chromatography using Diaion MCI® GEL CHP-20P (Mitsubishi Chemical Industries Limited, Japan), elution being carried out with acetonitrile-0.01N hydrochloric acid. The fractions containing the desired product are combined and lyophilized to give 940 mg of the title compound as a white powder.

reactant | 1-chloroethyl 2,4-dimethyl-3-pentyl carbonate | 1.78 g | C(OC(C)Cl)(OC(C(C)C)C(C)C)=O | C10H19ClO3
reactant | sodium iodide | 5 g | [I-].[Na+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-iodoethyl 2,4-dimethyl-3-pentyl carbonate | C(OC(C)I)(OC(C(C)C)C(C)C)=O | C10H19IO3
